US08048909B2
2-Fluoro-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde
To a solution (20 mL) of [2-fluoro-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol (330 mg) in acetonitrile were added tetra-n-propylammonium perruthenate (53 mg), N-methylmorpholine N-oxide (270 mg) and molecular sieves 4A powder (500 mg), and the mixture was stirred at room temperature for 1.5 hr. The reaction mixture was diluted with ethyl acetate, filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→4:1) to give the title compound as a colorless oil (yield 110 mg, 34%).

reactant | [2-fluoro-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol | 20 mL, 330 mg | FC=1N(C(=CC1CO)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C17H14FNO3S
reactant | N-methylmorpholine N-oxide | 270 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetra-n-propylammonium perruthenate | 53 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 2-Fluoro-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 110 mg, 34% | FC=1N(C(=CC1C=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C17H12FNO3S
